US07396853B2
N-(2,4-Di-tert-butyl-phenyl)-2-[(E)-hydroxyimino]-acetamide
Sodium sulfate (20.75 g, 146 mmol) and chloral hydrate (2.78 g, 17 mmol) were dissolved in water (30 mL). Then a solution of 2,4-di-tert-butyl-phenylamine [prepared according to P. D. Bartlett, M. Roha, R. M. Stiles, J. Am. Chem. Soc. 1954, 76, 2349-2353] (3 g, 14.6 mmol) in water (6 mL), 25% HCl (1.9 mL), and a solution of hydroxylamine hydrochloride (3.25 g, 47 mmol) in water (8 mL) were added. The mixture was heated at 100° C. for 1 h. Extraction with ethyl acetate and chromathography on silica gel with a gradient of 0% to 25% of ethyl acetate in heptane afforded a light brown solid (1 g, 25%), which was a 1:1-mixture with formylated starting material. MS: m/z=277 (M+H).

reactant | Sodium sulfate | 146 mmol, 20.75 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | chloral hydrate | 17 mmol, 2.78 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | 2,4-di-tert-butyl-phenylamine | 14.6 mmol, 3 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)N | C14H23N
reactant | hydroxylamine hydrochloride | 47 mmol, 3.25 g | Cl.NO
solvent | water | 30 mL | O | H2O
solvent | water | 6 mL | O | H2O
solvent | HCl | 1.9 mL | Cl | ClH
solvent | water | 8 mL | O | H2O
product | N-(2,4-Di-tert-butyl-phenyl)-2-[(E)-hydroxyimino]-acetamide | 1 g, 25% | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)NC(/C=N/O)=O | C16H24N2O2
